US08431596B2
(4-Bromo-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine
A 1M solution of BH3 in tetrahydrofuran (7.7 ml, 7.7 mmol) was added dropwise to N-(4-bromo-phenyl)-2-pyrrolidin-1-yl-acetamide (0.22 g, 0.77 mmol) and the solution was stirred overnight at reflux then subsequently hydrolysed by slow addition of excess of methanol and refluxing for a further 2 hours. The solvent was removed under reduced pressure and aqueous ammonium chloride was added. The aqueous was extracted twice with ethyl acetate and the organics were combined, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the desired product. Yield 0.18 g, 86%. LCMS method: 2, RT: 4.62 min; MI: 267-269 [M+1].

reactant | tetrahydrofuran | 7.7 mmol, 7.7 ml | O1CCCC1 | C4H8O
reactant | N-(4-bromo-phenyl)-2-pyrrolidin-1-yl-acetamide | 0.77 mmol, 0.22 g | BrC1=CC=C(C=C1)NC(CN1CCCC1)=O | C12H15BrN2O
solvent | methanol | CO | CH4O
product | (4-Bromo-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine | BrC1=CC=C(C=C1)NCCN1CCCC1 | C12H17BrN2
